US07569536B2
Isonicotinoyl chloride hydrochloride (390 mg, 2.19 mmol, commercially available product) and triethylamine (449 l, 3.24 mmol) were sequentially added at 0° C. to a dichloromethane (5 ml) solution of 2-[2-amino-4-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydroisoquinoline (315 mg, 1.08 mmol), obtained as described in Referential Example 21-2. The resulting mixture was warmed to room temperature and stirred for half an hour. Water was added to the mixture, and the resulting mixture was extracted three times with dichloromethane. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=2/1). Thus, N-[2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0621) (418 mg, 97.6%) was yielded as a colorless solid.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 3.24 mmol, 449 l | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | 2-[2-amino-4-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydroisoquinoline | 1.08 mmol, 315 mg | NC1=C(C=CC(=C1)C(F)(F)F)N1CC2=CC=CC=C2CC1 | C16H15F3N2
solvent | Water | O | H2O
product | N-[2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5-(trifluoromethyl)phenyl]isonicotinamide | 418 mg, 97.6% | C1N(CCC2=CC=CC=C12)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C22H18F3N3O
